US04309541
By heating in an analogous fashion 2.4 g of 4-amino-2-chloro-6,7-dimethoxyquinazoline, 2.2 g of 2-(4-piperidinyl)-isoindolin-1-one, 2.0 g of anhydrous sodium carbonate and 20 ml of dimethylformamide, the 2-[1-(4-amino-6,7-dimethoxy-2-quinazolinyl)-4-piperidinyl]-isoindolin-1-one monohydrochloride is obtained, melting at 288°-289° (dec.).

reactant | 4-amino-2-chloro-6,7-dimethoxyquinazoline | 2.4 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | 2-(4-piperidinyl)-isoindolin-1-one | 2.2 g | N1CCC(CC1)N1C(C2=CC=CC=C2C1)=O | C13H16N2O
reactant | sodium carbonate | 2.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-[1-(4-amino-6,7-dimethoxy-2-quinazolinyl)-4-piperidinyl]-isoindolin-1-one monohydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCC(CC1)N1C(C2=CC=CC=C2C1)=O | InChI=1S/C23H25N5O3.ClH/c1-30-19-11-17-18(12-20(19)31-2)25-23(26-21(17)24)27-9-7-15(8-10-27)28-13-14-5-3-4-6-16(14)22(28)29;/h3-6,11-12,15H,7-10,13H2,1-2H3,(H2,24,25,26);1H
